US04720445
Preparation of Maleimide-Decyl Vinyl Ether Copolymer
To a solution of 0.02 moles (1.94 gm) of recrystallized maleimide in 20 ml of distilled cyclohexanone were added 0.02 moles (3.69 gm) of n-decyl vinyl ether which had been purified by passing through a silica adsorption column. To the mixture were then added 380 μl of dodecanethiol followed by 26 mg of azobisisobutyrlnitrile. The vessel was then sealed and deoxygenated with argon followed by placement in an oil bath where the temperature was maintained at 60° C. After 6 hours, the reaction mixture was poured into 500 ml of water and mixed at high speed with a blender. The white precipitate was isolated by filtration. Likewise, the precipitate was mixed with 400 ml of pentane, filtered, isolated and dried overnight at 90° C. to give 4.43 gm (79%) of product.

reactant | maleimide | 0.02 moles, 1.94 gm | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | n-decyl vinyl ether | 0.02 moles, 3.69 gm | C(=C)OCCCCCCCCCC | C12H24O
reactant | pentane | 400 ml | CCCCC | C5H12
solvent | cyclohexanone | 20 ml | C1(CCCCC1)=O | C6H10O
product | Maleimide Decyl Vinyl Ether | 4.43 gm, 79% | C1(C=CC(N1)=O)=O.C(=C)OCCCCCCCCCC | InChI=1S/C12H24O.C4H3NO2/c1-3-5-6-7-8-9-10-11-12-13-4-2;6-3-1-2-4(7)5-3/h4H,2-3,5-12H2,1H3;1-2H,(H,5,6,7)
